US06211215B1
In substantially the same manner as in Reference Example 88, 3-(3-benzyloxyphenyl)propyl methanesulfonate was allowed to react with imidazole to give 1-[3-(3-benzyloxyphenyl)propyl]imidazole. The yield was 44%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 82-83° C.

reactant | 3-(3-benzyloxyphenyl)propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C17H20O4S
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 1-[3-(3-benzyloxyphenyl)propyl]imidazole | yield was 44% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1C=NC=C1 | C19H20N2O
